US07196087B2
1-Benzyl-6-fluoro-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one
4-(1-Benzyl-6-fluoro-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (141 mg) was dissolved in 4 mL 2 N HCl/ethanol and heated to 80° C. for 20 minutes, then cooled to room temperature. Diethyl ether was added, precipitating 115 mg of 1-benzyl-6-fluoro-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one hydrochloride. MP: 285.6–290.0° C. MS: 341 (M+H)+.

reactant | 4-(1-Benzyl-6-fluoro-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 141 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CNC(N(C2=CC=C1F)CC1=CC=CC=C1)=O | C24H29FN4O3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | HCl ethanol | 2 N, 4 mL | Cl.C(C)O
product | 1-Benzyl-6-fluoro-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one | C(C1=CC=CC=C1)N1C(NCC2=C(C(=CC=C12)F)N1CCNCC1)=O | C19H21FN4O
